US07381399B2
(Bis(2-pyridylmethyl)amino)acetic Acid
2-Chloromethylpyridine hydrochloride (9.2 g, 8.53 mmol) and glycin (2 g, 26.6 mmol) were dissolved in water (30 mL) and stirred at room temperature for five days, with addition of 5 mol aqueous NaOH solution at intervals to maintain the pH at 8-10. The resulting dark red solution was extracted with ethyl acetate, neutralized with HCl and concentrated. The residue was dissolved in dichloromethane, and the insoluble sodium chloride was filtered. Pale yellow crystals formed from the filtrate, which were collected and dried under vacuum. Yield (2.87 g) (11.2 mmol, 42%). 1H NMR (CDCl3), 300 MHz): 3.39 (s, 2H), 3.98 (s, 4H), 7.06 (t, 2H), 7.30 (d, 2h), 7.56 (t, 2H), 8.36 (d, 2H). 13C NMR (CD3OD, 300 MHz): 57.36 (C, CH2), 59.77 (2C, PyCH2), 124.77 (2CH, Py), 125.15 (2CH, Py), 139.00 (C, CH2), 149.76 (2CH, Py), 156.10 (2C, Py), 173.05 (C, CO2H).

reactant | 2-Chloromethylpyridine hydrochloride | 8.53 mmol, 9.2 g | Cl.ClCC1=NC=CC=C1
reactant | glycin | 26.6 mmol, 2 g | NCC(=O)O | C2H5NO2
reactant | NaOH | 5 mol | [OH-].[Na+]
solvent | water | 30 mL | O | H2O
product | (Bis(2-pyridylmethyl)amino)acetic Acid | N1=C(C=CC=C1)CN(CC1=NC=CC=C1)CC(=O)O | C14H15N3O2
